US06057337
N-[3-(Dimethylamino)propyl]-[2-(1-docosanoyl-2-piperidyl)ethoxy]formamide hydrochloride (Compound 17)
4N Hydrochloric acid/ethyl acetate solution (0.58 ml) was added to a solution of N-[3-(dimethylamino)propyl]-[2-(1-docosanoyl-2-piperidyl)ethoxy]formamide (1.04 g) in ethyl acetate (11 ml) at room temperature. After being stirred for 20 minutes, the reaction mixture was concentrated. The residue was recrystallized with ethyl acetate, thereby yielding the entitled compound (1.12 g) as white crystals.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.58 ml | Cl.C(C)(=O)OCC
reactant | N-[3-(dimethylamino)propyl]-[2-(1-docosanoyl-2-piperidyl)ethoxy]formamide | 1.04 g | CN(CCCN(C=O)OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCCCCCC)=O)C | C35H69N3O3
solvent | ethyl acetate | 11 ml | C(C)(=O)OCC | C4H8O2
product | N-[3-(Dimethylamino)propyl]-[2-(1-docosanoyl-2-piperidyl)ethoxy]formamide hydrochloride | 1.12 g | Cl.CN(CCCN(C=O)OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCCCCCC)=O)C | InChI=1S/C35H69N3O3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-27-35(40)38-31-24-23-26-34(38)28-32-41-37(33-39)30-25-29-36(2)3;/h33-34H,4-32H2,1-3H3;1H
